US08283354B2
To a solution of tert-butyl 1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-4-ylcarbamate (1.05 g, 2.3 mmol) in 20 ml CH2Cl2 was slowly added TFA (5 mL). The reaction was stirred for one hour before it was evaporated to dryness. To the residue was added CH2Cl2, and the reaction was neutralized using an aqueous 1 M NaOH solution. The aqueous layer was extracted twice with CH2Cl2, and the combined organic layers were dried over MgSO4, filtered, and concentrated to obtain 2-(4-(4-aminopiperidin-1-yl)-7-methylquinazolin-2-yl)-3-fluorophenol (0.75 g, 92%). LC/MS: m/z 353.3 (M+H)+ at 1.35 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | tert-butyl 1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-4-ylcarbamate | 2.3 mmol, 1.05 g | FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1CCC(CC1)NC(OC(C)(C)C)=O)C | C25H29FN4O3
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-(4-aminopiperidin-1-yl)-7-methylquinazolin-2-yl)-3-fluorophenol | 0.75 g, 92% | NC1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1F)O | C20H21FN4O
